US05990105
0.29 g (0.00086 mol) of 1-(3,5-dimethoxyphenylsulphonyl)-3-methyl-4-nitrobenzene was suspended in a mixture of 10 ml of methanol and 10 ml of water, treated with 0.30 g of iron powder and 0.30 g of NH4Cl and heated at reflux for 1.5 hrs. After cooling the mixture was diluted with 50 ml of methanol, treated in an ultrasound bath for a short time and suction filtered. The filter material was washed with a large amount of methanol and the filtrate was concentrated. The residue was suspended in water and treated in an ultrasound bath. The precipitate which thereby resulted was filtered off under suction and chromatographed on silica gel with ethyl acetate/hexane 1:1. There was obtained 0.246 g (92.5%) of 4-(3,5-dimethoxybenzenesulphonyl)-2-methyl-phenylamine as yellow coloured crystals; m.p.: 121-123° C.

reactant | 1-(3,5-dimethoxyphenylsulphonyl)-3-methyl-4-nitrobenzene | 0.00086 mol, 0.29 g | COC=1C=C(C=C(C1)OC)S(=O)(=O)C1=CC(=C(C=C1)[N+](=O)[O-])C | C15H15NO6S
reactant | NH4Cl | 0.30 g | [NH4+].[Cl-]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
catalyst | iron | 0.30 g | [Fe] | Fe
product | 4-(3,5-dimethoxybenzenesulphonyl)-2-methyl-phenylamine | 0.246 g, 92.5% | COC=1C=C(C=C(C1)OC)S(=O)(=O)C1=CC(=C(C=C1)N)C | C15H17NO4S
